US04239902
(a) L-Phenylalanine p-nitrophenyl ester hydrochloride
250 ml of 5 N ethereal hydrogen chloride were added to a solution of 21 g of tert.-butoxycarbonyl-L-phenylalanine p-nitrophenyl ester in 50 ml of anhydrous tetrahydrofurane and the reaction mixture was stirred for 1 hour at 22° C., with exclusion of moisture. 250 ml of absolute ether were added to the precipitate formed and the yellowish crystals were isolated by filtration; 15.9 g (99% of theory) of melting point 191°-193° C.

reactant | hydrogen chloride | 5 N, 250 ml | Cl | ClH
reactant | tert.-butoxycarbonyl-L-phenylalanine p-nitrophenyl ester | 21 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C20H22N2O6
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | L-Phenylalanine p-nitrophenyl ester hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C15H14N2O4.ClH/c16-14(10-11-4-2-1-3-5-11)15(18)21-13-8-6-12(7-9-13)17(19)20;/h1-9,14H,10,16H2;1H/t14-;/m0./s1
